US04808608
9-p-Chlorobenzyl-6,8-dimethyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid
Following the procedure of Example 34, but using 1-(2,4-dimethylphenyl)hydrazine hydrochloride and ethyl 2-cyclohexanone acetate in Step I as starting materials, the title compound was prepared. m.p. 187°-188° C.

reactant | 1-(2,4-dimethylphenyl)hydrazine hydrochloride | Cl.CC1=C(C=CC(=C1)C)NN
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | 9-p-Chlorobenzyl-6,8-dimethyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid | ClC1=CC=C(CN2C3=C(C=C(C=C3C=3CCCC(C23)CC(=O)O)C)C)C=C1 | C23H24ClNO2
